US06489479B1
Accordingly, the present invention also includes a process for the manufacture of these compounds. Such a process embraces in a first step the manufacture of a mixed anhydride and its conversion into quinargine as described above. The mixed anhydride, e.g. 2,2-dimethylpropionic acid-quinoline-2-carboxylic acid anhydride, can be obtained by adding an adjuvant base, e.g. triethylamine, to a mixture of quinoline-2-carboxylic acid and a reactive acid derivative, preferably pivaloyl chloride. The resulting mixed anhydride is subsequently reacted with asparagine in alkaline solution to give N-(2-quinolylcarbonyl)-L-asparagine. This substance is then converted in a subsequent step with 2-[3(S)-amino-2(R)-hydroxy-4-phenylbutyl]-N-tert.butyl-decahydro-(4aS,8aS)-isoquinoline-3(S)carboxamide into N-t-butyl-decahydro-2-[2(R)-hydroxy-4-phenyl-3(S)-[[N-(2-quinolylcarbonyl)-L-asparaginyl]-amino]butyl]-(4aS,8aS)-isoquinoline-3(S)-carboxamide as described above or optionally into a corresponding salt, preferably the methanesulphonic acid salt, or into an ester.

reactant | quinoline-2-carboxylic acid | N1=C(C=CC2=CC=CC=C12)C(=O)O | C10H7NO2
reactant | pivaloyl chloride | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | asparagine | N[C@@H](CC(N)=O)C(=O)O | C4H8N2O3
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | N-(2-quinolylcarbonyl)-L-asparagine | N1=C(C=CC2=CC=CC=C12)C(=O)N[C@@H](CC(N)=O)C(=O)O | C14H13N3O4
